US07148250B2
To a solution of 4,9-dihydro-3H-pyrano[3,4-b]indol-1-one (Arch. Pharm., 1987, 320, 1202–1209, 5.225 g, 27.9 mmol) in THF (25 mL) was added deoxygenated 3 N KOH (25 mL). The mixture was stirred at room temperature for 4.5 hours. The reaction mixture was washed with EtOAc, acidified with 1 N HCl, and extracted with EtOAc. The organic extract was dried over MgSO4 and concentrated to give 5.589 g of 3-(2-hydroxyethyl)-1H-indole-2-carboxylic acid as a solid. This material was used for the next reaction without further purification: 1H NMR (DMSO-d6) δ 3.26 (t, J=7.5 Hz, 2H), 3.63 (t, J=7.5 Hz, 2H), 7.08 (t, J=7.5 Hz, 1H), 7.26 (t, J=7.7 Hz, 1H), 7.43 (d, J=8.3 Hz, 1H), 7.69 (d, J=8.1 Hz, 1H). Anal. Calcd. for C11H11NO3.0.1 EtOAc: C., 63.98; H, 5.56; N, 6.54. Found: C, 63.90; H, 5.57; N, 6.46.

reactant | 4,9-dihydro-3H-pyrano[3,4-b]indol-1-one | 27.9 mmol, 5.225 g | C1(OCCC2=C1NC1=CC=CC=C21)=O | C11H9NO2
reactant | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-(2-hydroxyethyl)-1H-indole-2-carboxylic acid | 5.589 g | OCCC1=C(NC2=CC=CC=C12)C(=O)O | C11H11NO3
